US07511152B2
To a solution of 1-chloro-2-methoxybenzene (12.8 mL, 100 mmol) and 3-chloropropanoyl chloride (10.5 mL, 110 mmol) in CH2Cl2 (100 mL) at 0° C. was added AlCl3 (14.6 g, 110 mmol) portionwise during about 1 minute. After 30 minutes, sulfuric acid (300 mL) was poured slowly into the reaction mixture during about 3 minutes. The CH2Cl2 was removed by rotary evaporation under reduced pressure and the viscous residue was stirred at 100 ° C. for 2 hours. After cooling to ˜50° C., the viscous reaction mixture was poured cautiously onto 1.5 L of ice and allowed to stand overnight. The mixture was filtered and the cake of crude product was washed with water. The crude product was dissolved in 500 mL of 2% MeOH in CH2Cl2, dried over a mixture of Na2CO3 (˜10 g) and Na2SO4 (˜20 g), filtered and concentrated under vacuum to give 6-chloro-5-methoxyindan-1-one as an off-white solid.

reactant | 1-chloro-2-methoxybenzene | 100 mmol, 12.8 mL | ClC1=C(C=CC=C1)OC | C7H7ClO
reactant | 3-chloropropanoyl chloride | 110 mmol, 10.5 mL | ClCCC(=O)Cl | C3H4Cl2O
reactant | AlCl3 | 110 mmol, 14.6 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | sulfuric acid | 300 mL | S(O)(O)(=O)=O | H2O4S
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 6-chloro-5-methoxyindan-1-one | ClC1=C(C=C2CCC(C2=C1)=O)OC | C10H9ClO2
